US05272172
8.0 g (0.21 mol) of lithium aluminum hydride was suspended in 100 ml of anhydrous tetrahydrofuran, and 150 ml of an anhydrous tetrahydrofuran solution of methyl (1S, 4aS, 7R, 7aR)-1-acetoxy-7-methyl-1, 4a, 5, 6, 7, 7a-hexahydrocyclopenta[c]pyran-4-carboxylate obtained in Definite Example 52 (14.5 g, 0.057 mol) was added dropwise while being cooled by ice and stirred. The temperature was returned to room temperature and the reaction mixture was stirred for 3 hours. After 300 ml of ether was added, 1N sodium hydroxide solution was further added dropwise After insoluble matters were filtered by celite, concentration was carried out and the residual substance was purified by chromatography using silica gel. When the solvent of the fraction obtained from ether:ethyl acetate=9:1 eluent was distilled off, and a colorless oily substance was obtained, i.e., 2-[(1S, 2R, 3R)-2-(hydroxymethyl)-3-methylcyclopent-1-yl]-2-propen-1-ol (5.55 g, yield=57.2%). This 2-[(1S, 2R, 3R)-2-(hydroxymethyl)-3-methylcyclopent-1-yl]-2-propen-1-ol had the following physicochemical properties.

reactant | lithium aluminum hydride | 0.21 mol, 8.0 g | [H-].[Al+3].[Li+].[H-].[H-].[H-]
reactant | methyl (1S, 4aS, 7R, 7aR)-1-acetoxy-7-methyl-1, 4a, 5, 6, 7, 7a-hexahydrocyclopenta[c]pyran-4-carboxylate | C(C)(=O)O[C@@H]1OC=C([C@@H]2[C@H]1[C@@H](CC2)C)C(=O)OC | C13H18O5
reactant | ether | 300 ml | CCOCC | C4H10O
reactant | sodium hydroxide | 1N | [OH-].[Na+]
solvent | tetrahydrofuran | 100 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
product | 2-[(1S, 2R, 3R)-2-(hydroxymethyl)-3-methylcyclopent-1-yl]-2-propen-1-ol | 5.55 g, yield=57.2% | OC[C@H]1[C@H](CC[C@H]1C)C(CO)=C | C10H18O2
